US04764522
7.0 g of t-butyl [2-(4-nitropyridine-2-carboxamido)ethyl]carbamate were stirred at room temperature with 9 ml of methylene chloride and 9 ml of trifluoroacetic acid. Thereafter, the reaction mixture was concentrated under reduced pressure. The residue was converted with hydrogen chloride in ethanol into the hydrochloride and this was recrystallized from ethanol/ether. There was obtained N-(2-aminoethyl)-4-nitropyridine-2-carboxamide hydrochloride as white crystals, m.p. 193°-194°.

reactant | t-butyl [2-(4-nitropyridine-2-carboxamido)ethyl]carbamate | 7.0 g | [N+](=O)([O-])C1=CC(=NC=C1)C(=O)NCCNC(OC(C)(C)C)=O | C13H18N4O5
reactant | trifluoroacetic acid | 9 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
product | N-(2-aminoethyl)-4-nitropyridine-2-carboxamide hydrochloride | Cl.NCCNC(=O)C1=NC=CC(=C1)[N+](=O)[O-] | InChI=1S/C8H10N4O3.ClH/c9-2-4-11-8(13)7-5-6(12(14)15)1-3-10-7;/h1,3,5H,2,4,9H2,(H,11,13);1H
